US05977381
a) Preparation of tert-butyl (S)-3-hydroxy-pyrrolidine-1-carboxylate
34.1 g of (S)-3-hydroxy-pyrrolidinol hydrochloride and 29.2 g of K2CO3 were suspended in 400 ml of methanol under argon. The suspension was cooled to 0-5° C. and treated while stirring within 10 minutes with 45.8 g of di-tert-butyl dicarbonate. The reaction mixture was stirred firstly at 0-5° C. for 30 minutes and subsequently at room temperature for 4.5 hours. The suspension was concentrated and the residue was taken up in 400 ml of ethyl acetate and 200 ml of water. The organic was separated, washed with water, dried over Na2SO4, filtered and the filtrate was concentrated. There were obtained 34.1 g of product as a brownish liquid, which was used in the next step without purification.

reactant | (S)-3-hydroxy-pyrrolidinol hydrochloride | 34.1 g | Cl.O[C@@H]1CN(CC1)O
reactant | K2CO3 | 29.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 45.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 400 ml | CO | CH4O
product | tert-butyl (S)-3-hydroxy-pyrrolidine-1-carboxylate | 34.1 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
